data/oMe_Silver.jsonl
{"reaction_id": "NR-130_1-CCOC_2-c2ccc(F)cc2_3-CO","name": "Leimgruber-Batcho Indole Synthesis","level": "medium","reactants_smiles": ["O=[N+]([O-])c1ccccc1C(c2ccc(F)cc2)=C(CO)N(CCOC)CCOC"],"products_smiles": ["c1ccc2c(c1)c(c2ccc(F)cc2)c(CO)[nH]2"],"conditions": "[H]","mechanism": [{"step": 1,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "Nc1ccccc1C(c2ccc(F)cc2)=C(CO)N(CCOC)CCOC","rationale": "Single-electron transfer reduces the nitro group to an aniline, favored by the electron-rich aromatic ring and reductive conditions, stabilizing intermediates via resonance."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "Nc1ccccc1C(c2ccc(F)cc2)C(CO)=[N+](CCOC)CCOC","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1ccc2c(c1)C(c2ccc(F)cc2)C(CO)=[NH+]2","rationale": "The aniline nitrogen attacks the electrophilic iminium carbon intramolecularly; proximity and conjugation with the aromatic ring lower the activation barrier for cyclization."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "c1ccc2c(c1)c(c2ccc(F)cc2)c(CO)[nH]2","rationale": "Elimination of the leaving group restores aromaticity in the newly formed five-membered ring, providing strong thermodynamic driving force for indole formation."}],"description": "Under reductive conditions, the nitro group is reduced to an aniline, which undergoes intramolecular cyclization via nucleophilic attack on an iminium intermediate, followed by elimination to yield the indole core. Electronic activation and proximity drive the ring closure."}
{"reaction_id": "NR-245_1-C_2-c1sc(Br)cc1","level": "medium","name": "Swern Oxidation","reactants_smiles": ["C(O)(C)(c1sc(Br)cc1)","CS(C)=O","O=C(Cl)C(=O)Cl","CCN(CC)CC"],"products_smiles": ["C(=O)(C)(c1sc(Br)cc1)"],"conditions": "Low temperature (-78 °C)","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C[S+](C)OC([O-])(Cl)C(=O)Cl","step_weight": 0,"rationale": "DMSO oxygen attacks electrophilic carbonyl of oxalyl chloride due to strong polarization, forming a chlorosulfonium intermediate stabilized by resonance with sulfur."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C[S+](C)OC(=O)C(=O)Cl","step_weight": 0,"rationale": "Chloride leaves as CO2 is expelled, driven by formation of stable gaseous products and relief of electron density on sulfur."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C[S+](C)Cl","step_weight": 0,"rationale": "Further elimination of CO gas occurs, favored by thermodynamic stability of gaseous products and increased electrophilicity of the sulfonium species."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C)(c1sc(Br)cc1)O[S](Cl)(C)C","step_weight": 0,"rationale": "Alcohol oxygen attacks the highly electrophilic sulfonium center, facilitated by low temperature preventing side reactions and by good leaving group potential of chloride."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(C)(c1sc(Br)cc1)O[S](=C)C","step_weight": 0,"rationale": "Base-induced elimination removes a proton adjacent to oxygen, forming an alkoxysulfonium ylide stabilized by adjacent heteroatoms."},{"step": 6,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)(C)(c1sc(Br)cc1)","step_weight": 0,"rationale": "The ylide undergoes a [2,3]-sigmatropic rearrangement, driven by relief of charge separation and formation of the stable carbonyl product."}],"description": "In the Swern oxidation, DMSO is activated by oxalyl chloride at low temperature to form an electrophilic sulfonium species. The alcohol attacks this intermediate, leading to an alkoxysulfonium salt. Subsequent elimination and rearrangement steps yield the aldehyde or ketone product under mild, non-aqueous conditions, avoiding overoxidation."}
